US07319155B2
10 g of (3,4-bis-hydroxymethylphenyl)methanol (59.4 mmol) (prepared according to Nakazaki, M.; Yamamoto, K. And Miura, Y.; J. Org. Chem., 43(6), (1978), 1041-1044), 100 ml of toluene, 8.98 g of 4-nitrobenzaldehyde (59.4 mmol) and 0.6 g of Montmorillonite KSF (10 mg/mmol) are introduced into a flask equipped with a Dean-Stark. The mixture is heated under reflux for 2 hours 30 minutes. The montmorillonite is filtered off and the reaction medium is allowed to return to room temperature, with stirring. The reaction product crystallizes. After filtration and drying under vacuum at 50° C., 11.2 g of [7-(4-nitrophenyl)-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl]methanol are obtained.

reactant | (3,4-bis-hydroxymethylphenyl)methanol | 59.4 mmol, 10 g | OCC=1C=C(C=CC1CO)CO | C9H12O3
reactant | 4-nitrobenzaldehyde | 59.4 mmol, 8.98 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
catalyst | Montmorillonite KSF | 0.6 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | [7-(4-nitrophenyl)-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl]methanol | 11.2 g, Yield=58% | [N+](=O)([O-])C1=CC=C(C=C1)C1OCC2=C(CO1)C=C(C=C2)CO | C16H15NO5
